US08703795B2
d) [(7-Hydroxy-2-phenylsulfanyl-thieno[3,2-c]pyridine-6-carbonyl)-amino]-acetic acid
7-Hydroxy-2-phenylsulfanyl-thieno[3,2-c]pyridine-6-carboxylic acid n-butyl ester, example 17.c.A, (25 mg, 0.07 mmol) and glycine (52 mg, 0.7 mmol) were suspended in 1.4 mL of 0.5 N NaOMe in methanol. The reaction mixture was heated at 120° C. for 10 minutes using a CEM microwave reactor, cooled, and diluted with 0.25 N HCl to precipitate out a white solid. The precipitate was collected on a fine glass fritted filter, washed twice with water, and dried under hi-vacuum to isolate 23 mg of the title compound. MS: (+) m/z 361.4 (M+1).

reactant | 7-Hydroxy-2-phenylsulfanyl-thieno[3,2-c]pyridine-6-carboxylic acid n-butyl ester | C(CCC)OC(=O)C1=C(C2=C(C=N1)C=C(S2)SC2=CC=CC=C2)O | C18H17NO3S2
reactant | glycine | 0.7 mmol, 52 mg | NCC(=O)O | C2H5NO2
solvent | NaOMe | 0.5 N, 1.4 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | HCl | 0.25 N | Cl | ClH
product | [(7-Hydroxy-2-phenylsulfanyl-thieno[3,2-c]pyridine-6-carbonyl)-amino]-acetic acid | 23 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)C=C(S2)SC2=CC=CC=C2 | C16H12N2O4S2
